US05047489
1-Methoxy-2,2,6,6-tetramethyl-4-acryloyloxypiperidine
1-Methoxy-4-methacryloyloxy-2,2,6,6-tetramethylpiperidine is made by substituting an equivalent amount of methacryloyl chloride in place of acryloyl chloride.

reactant | 1-Methoxy-4-methacryloyloxy-2,2,6,6-tetramethylpiperidine | CON1C(CC(CC1(C)C)OC(C(=C)C)=O)(C)C | C14H25NO3
reactant | methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
product | 1-Methoxy-2,2,6,6-tetramethyl-4-acryloyloxypiperidine | CON1C(CC(CC1(C)C)OC(C=C)=O)(C)C | C13H23NO3
